US06613942B1
1,2-Dibromoethane (30 mL, 0.35 moles) was added to a mixture of 4-hydroxy-1-naphthaldehyde (6 g, 35 mmoles) and potassium carbonate (24 g, 175 mmoles) in DMF (110 ml) and the resulting mixture was stirred vigorously at room temperature for 16 hours. The mixture was poured into water (0.5 L) and extracted with ethyl acetate (3×300 mL). The combined organic phases were washed with saturated sodium chloride (300 mL), dried over MgSO4 and evaporated in vacuo. The residue was purified by column chromatography on silica gel (800 mL) eluting with a mixture of ethyl acetate and heptane (1:1) to afford 8.5 g (88%) of 4-(2-bromoethoxy)-1-naphthaldehyde as a solid. M.p.: 83-84° C.

reactant | 1,2-Dibromoethane | 0.35 moles, 30 mL | BrCCBr | C2H4Br2
reactant | 4-hydroxy-1-naphthaldehyde | 35 mmoles, 6 g | OC1=CC=C(C2=CC=CC=C12)C=O | C11H8O2
reactant | potassium carbonate | 175 mmoles, 24 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 0.5 L | O | H2O
solvent | DMF | 110 ml | CN(C)C=O | C3H7NO
product | 4-(2-bromoethoxy)-1-naphthaldehyde | 8.5 g, 88% | BrCCOC1=CC=C(C2=CC=CC=C12)C=O | C13H11BrO2
